US05574055
A solution of 0.5 g (1.639 mmol) of (RS)-3-[4-(trans-4-hydroxy-cyclohexyl)-phenyl]-5-methoxymethyl-oxazolidin-2-one in 20 ml of methylene chloride and 5 ml of pyridine was treated dropwise with a solution of 0.95 ml (8.195 mmol) of benzoyl chloride in 10 ml of methylene chloride and stirred at room temperature for a further 3 hours. The reaction mixture was poured into ice-water, made acid with 3N hydrochloric acid and extracted with methylene chloride. The organic phase was washed with wate, dried over magnesium sulfate and the solvent was distilled off. The benzoate crystallized upon treatment with t-butyl methyl ether. There was obtained 0.52 g (77%) of benzoic acid (RS)-trans-4-[4-(5-methoxymethyl-2-oxo-oxazolidin-3-yl)-phenyl]-cyclohexyl ester. M.p.: 104°-105°.

reactant | (RS)-3-[4-(trans-4-hydroxy-cyclohexyl)-phenyl]-5-methoxymethyl-oxazolidin-2-one | 1.639 mmol, 0.5 g | O[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)N1C(OC(C1)COC)=O | C17H23NO4
reactant | benzoyl chloride | 8.195 mmol, 0.95 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | benzoic acid (RS)-trans-4-[4-(5-methoxymethyl-2-oxo-oxazolidin-3-yl)-phenyl]-cyclohexyl ester | 0.52 g, 77% | COCC1CN(C(O1)=O)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)OC(C1=CC=CC=C1)=O | C24H27NO5
